US07012066B2
B) Synthesis of 9-Fluorenylmethoxycarbonyl-norvalinal (Steps a-c Below):
To a solution of Fmoc-norValinol (21.70 g, 66.77 mmol) in dichloromethane (668 ml) was added triethylamine (37.23 ml, 267 mmol) and the solution was cooled to 0° C. A suspension of pyridine sulfur trioxide complex (42.51 g, 267 mmol) in dimethylsulfoxide (96 ml) was added to the chilled solution. After one hour, TLC in 2:3 ethylacetate:hexanes confirmed the completion of the reaction. The dichloromethane was removed under reduced pressure and the remaining residue was dissolved in ethylacetate and washed with water (2×50 ml), 1N saturated sodium bisulfate (2×50 ml), saturated sodium bicarbonate (2×50 ml) and brine (50 ml). The organic layer was concentrated to yield a white solid. Theoretical yield (21.57 g) was assumed and the reaction was taken to the next step without further purification.

reactant | Fmoc-norValinol | 66.77 mmol, 21.70 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CCC)CO | C20H23NO3
reactant | triethylamine | 267 mmol, 37.23 ml | C(C)N(CC)CC | C6H15N
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | dichloromethane | 668 ml | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 96 ml | CS(=O)C | C2H6OS
product | 9-Fluorenylmethoxycarbonyl-norvalinal | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCC)C=O | C20H21NO3
